US05578593
(2R)-4-(4-hydroxyphenyl)-2-amino-butanoic acid hydrobromide
A solution of (2R)-2-[(methoxycarbonyl)amino]-4-(4-methoxyphenyl)-butanoic acid (5.0 g, 18.7 mmol) in 5 mL of 30% HBr in acetic acid was heated at 60° C. overnight. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure to give the title compound as an orange solid.

reactant | (2R)-2-[(methoxycarbonyl)amino]-4-(4-methoxyphenyl)-butanoic acid | 18.7 mmol, 5.0 g | COC(=O)N[C@@H](C(=O)O)CCC1=CC=C(C=C1)OC | C13H17NO5
reactant | HBr | 5 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (2R)-4-(4-hydroxyphenyl)-2-amino-butanoic acid hydrobromide | Br.OC1=CC=C(C=C1)CC[C@H](C(=O)O)N | InChI=1S/C10H13NO3.BrH/c11-9(10(13)14)6-3-7-1-4-8(12)5-2-7;/h1-2,4-5,9,12H,3,6,11H2,(H,13,14);1H/t9-;/m1./s1
